US06727264B1
N-{3-[1-(3-{[(BENZYLAMINO)CARBONYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure P and Scheme AB using (isocyanatomethyl)benzene and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 437.2 (M+H)+.

reactant | (isocyanatomethyl)benzene | N(=C=O)CC1=CC=CC=C1 | C8H7NO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | N-{3-[1-(3-{[(BENZYLAMINO)CARBONYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | C(C1=CC=CC=C1)NC(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C26H36N4O2
